2163-11-07 09:48:00 Physician Attending Progress Note
Chief Complaint: SOB, fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2163-11-7**] 01:00 AM
   Patient unable to provide history: Unresponsive, intubated/sedated
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2163-11-7**] 03:00 AM
   Cefipime - [**2163-11-7**] 03:00 AM
   Ciprofloxacin - [**2163-11-7**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2163-11-7**] 07:59 AM
   Other medications:
   colace, nephrocaps, atrovent, statin, calcium acetate, zetia, HISS,
   cipro 400 iv q24, vanco 1g iv q48, ipratropium MDI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-11-7**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 91 (85 - 100) bpm
   BP: 98/48(61) {98/42(59) - 125/57(69)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             1,325 mL
   PO:
             TF:
   IVF:
   1,235 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    190 mL
   Urine:
   190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,135 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 35
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 98%
   ABG: 7.34/40/102/20/-3
   Ve: 7.7 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: pupils non reactive
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), irreegular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Normal
   Labs / Radiology
   8.4 g/dL
   224 K/uL
   154 mg/dL
   3.8 mg/dL
   20 mEq/L
   4.8 mEq/L
   59 mg/dL
   120 mEq/L
   150 mEq/L
   27.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2163-11-6**]  11:56 PM
                             [**2163-11-7**]  12:47 AM
                             [**2163-11-7**]  02:45 AM
                             [**2163-11-7**]  06:02 AM
   WBC
   11.5
   Hct
   28
   27.7
   Plt
   224
   Cr
   3.8
   TCO2
   24
   24
   23
   Glucose
   206
   154
   Other labs: PT / PTT / INR:26.1/33.1/2.5, CK / CKMB / Troponin-T:60//,
   Differential-Neuts:86.1 %, Lymph:9.9 %, Mono:3.2 %, Eos:0.5 %,
   Fibrinogen:739 mg/dL, Lactic Acid:1.4 mmol/L, LDH:229 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR: left lower lobe infiltrate, ETT in good position, OG
   likely high
   Microbiology: pending.
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM): continue free water repletion D5W
   100cc/hr x20hr.Serial electrolytes
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]);
   Wean FiO2, doing well on 5/0, check ABG, wake up from sedation now and
   perform neuro exam. Pupils non reactive, headCT negative. Treating
   pneumonia broadly with vanco/cefepime, ciprofloxacin
Altered mental status: Will clarify baseline, does withdraw to pain,
   non reactive pupils ? surgical pupils. may be [**3-21**] to
   dehydration/hypernatremia
Pneumonia/sepsis: hemodynamically stable, continue broad spectrum
   antibiotic coverage, f/u sputum culture also blood, urine, stool
EKG changes: more consistent with demand, will follow up troponin, and
   repeat EKG this am.
Coagulopathy: INR trending down, no sign of overt bleeding, hct
   baselien is 28 and he is there currently.
Aute on chronic renal failure: f/u urine lytes, trending down s/p IVF
   repletion in ER. Monitor urine output
Abrasion: on knee / related to fall will clarify with nursing home.
Goals of care: will meet with his sister HCP this am.
   ICU Care
   Nutrition:
   Comments: Advance OG tube by 5cm and r/a.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2163-11-7**] 02:45 AM
   18 Gauge - [**2163-11-7**] 02:45 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
     He remains intubated though now on minimal vent settings.
   Exam notable for
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 91 (85 - 100) bpm
   BP: 98/48(61) {98/42(59) - 125/57(69)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             1,325 mL
   PO:
             TF:
   IVF:
   1,235 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    190 mL
   Urine:
   190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,135 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 35
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 98%
   ABG: 7.34/40/102/20/-3
   Ve: 7.7 L/min
   PaO2 / FiO2: 204
   Intubated, sedated, unresponsive
   Hrt rrr
   Lungs crackles left
   Abd benign
   Extreme thin
   Labs reviewed and recorded above
   Imaging: CXR improved aeration and infiltrates on left
   Problems: resp failure, pna
   Agree with plan to cont to wean vent and hopefully extubate within 24
   hours, cont abx, clarify code status
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2163-11-7**] 15:20 ------

2163-11-07 09:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2163-11-7**] 01:00 AM
   Intubated for aspiration pneumonia, dosed with vancomycin, cefepime,
   and ciprofloxacin. Sedation with fent/midaz
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2163-11-7**] 03:00 AM
   Cefipime - [**2163-11-7**] 03:00 AM
   Ciprofloxacin - [**2163-11-7**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2163-11-7**] 07:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-11-7**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 91 (85 - 100) bpm
   BP: 98/48(61) {98/42(59) - 125/57(69)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             1,325 mL
   PO:
             TF:
   IVF:
   1,235 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    190 mL
   Urine:
   190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,135 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 35
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 98%
   ABG: 7.34/40/102/20/-3
   Ve: 7.7 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: No(t) PERRL, eyes not reactive.
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   224 K/uL
   8.4 g/dL
   154 mg/dL
   3.8 mg/dL
   20 mEq/L
   4.8 mEq/L
   59 mg/dL
   120 mEq/L
   150 mEq/L
   27.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2163-11-6**]  11:56 PM
                             [**2163-11-7**]  12:47 AM
                             [**2163-11-7**]  02:45 AM
                             [**2163-11-7**]  06:02 AM
   WBC
   11.5
   Hct
   28
   27.7
   Plt
   224
   Cr
   3.8
   TCO2
   24
   24
   23
   Glucose
   206
   154
   Other labs: PT / PTT / INR:26.1/33.1/2.5, CK / CKMB / Troponin-T:60//,
   Differential-Neuts:86.1 %, Lymph:9.9 %, Mono:3.2 %, Eos:0.5 %,
   Fibrinogen:739 mg/dL, Lactic Acid:1.4 mmol/L, LDH:229 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Assessment and Plan
   ASSESSMENT & PLAN: 67 y.o. M from [**Hospital3 2781**] with recent history of
   pneumonia, presented with fever, tachycardia, and increased lethargy,
   found to have pneumonia and now intubated for respiratory failure.
   # Respiratory Failure: Secondary to dense pneumonia that was seen on
   portable CXR.  Intubated in ED for tachypnea and WOB.
   - Wean vent as tolerated
   - wean sedation to assess neurologic exam and mental status.
   - daily RSBIs if indicated
   - daily wake-ups
   - HOB elevation / PPI / VAP bundle
   - ABGs prn
   - will hold off on a-line tonight given ? goals of care and possible
   DNR/DNI/CMO discussion currently ongoing with family
   # Sepsis: Secondary to pneumonia seen on CXR. Given patient living in
   [**Hospital3 2781**], he is at risk for healthcare associated pneumonia.
   - Treat with vancomycin / cefepime / ciprofloxacin
   - send sputm culture
   - f/u blood and urine cultures
   - continue sedation and mechanical ventilation as above
   - monitor lactate
   - IVF hydration as below
   - if not maintaing BPs, will initiate pressors
   # Altered mental status: Pupils nonreactive, consider  ? bleed
   - Head CT no acute bleed
   # GI Bleeding: Unknown Hct baseline.  Guiaic + in ED.
   - monitor Hct
   - active T&S
   - guiaic all stools
   - 2 large bore PIVs
   - f/u GI input
   - IV PPI [**Hospital1 **]
   # Elevated Troponins: Elevated Troponin may be secondary to renal
   failure, but must also rule out ACS. EKG not able to compare to
   baseline, but cards believes demand ischemia.
   - CE q8 hours x 3
   - check EKG
   - appreciate cards input
   # Coagulopathy: PT, PTT, INR all elevated. Likely interaction between
   recent flagyl use and coumadin.  But also may be secondary to DIC,
   although platelets within normal limits.
   - send fibrinogen, FDP, LDH, haptoglobin, peripheral smear to r/o DIC
   - trend coags
   - hold coumadin
   # CKD, Stage 4: Recently discharged with Cr 2 from [**Hospital1 587**].
   - send urine lytes
   - trend Cr
   - IVF hydration overnight
   - avoid nephrotoxins
   - renally dose all meds
   - send SPEP, UPEP given renal failure and anemia
   - continue calcium acetate, renal caps
   # Hypernatremia: currently 155 and will need to slowly recorrect
   - D5W @ 120 cc for 20 hours
   - monitor Na
   # Type 2 DM: will need tight control as giving D5W.
   - HISS
   - QIDACHS FS
   # Hyperlipidemia: continue Zetia and Lipitor
   # HTN: hold beta blocker and amlodipine in setting of ? GI bleed
   # ? UTI: UA grossly bloody and may be false +.
   - resend UA
   # Stage 2 Sacral Decub: wound care consult
   # FEN: IVFs / replete lytes prn / NPO except meds
   # PPX: PPI, hold HSQ, pneumoboots, bowel regimen
   # ACCESS: 2 18 g PIVs
   # CODE: FULL
   # CONTACT: [**First Name8 (NamePattern2) 8974**] [**Last Name (NamePattern1) 8975**] [**Telephone/Fax (1) 8976**]
   # DISPO: ICU; needs ICU consent signed
   [**First Name8 (NamePattern2) 283**] [**Last Name (NamePattern1) 284**], MD, MPH
   PGY-3
   [**Numeric Identifier 285**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-11-7**] 02:45 AM
   18 Gauge - [**2163-11-7**] 02:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2163-11-08 07:36:00 Physician Resident Progress Note
24 Hour Events:
   - admitted overnight
   - head CT: no intracranial hemorrhage, mass effect or shift of midline
   structures. encephalomalacia of L hemisphere. small chronic vessel
   changes.
   - reduced FiO2 to 50%
   -sedation turned off in am with plan to extubate patient although not
   waking up much
   -code status confirmed as DNR/DNI
   -cardiac enzymes flat, EKG no change
   -Fena 2.15%
   -nurse noticed right arm with severe pain ?fracture
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2163-11-7**] 03:00 AM
   Cefipime - [**2163-11-8**] 04:00 AM
   Ciprofloxacin - [**2163-11-8**] 06:21 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2163-11-7**] 07:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-11-8**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.9
C (100.3
   HR: 76 (76 - 92) bpm
   BP: 140/54(75) {97/39(52) - 140/82(94)} mmHg
   RR: 20 (10 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,285 mL
                                                                    524 mL
   PO:
             TF:
   IVF:
                                                                  3,015 mL
                                                                    524 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                    330 mL
   Urine:
                                                                  1,035 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,250 mL
                                                                    194 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 445 (158 - 484) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.35/42/92.[**Numeric Identifier 491**]/22/-2
   Ve: 13.2 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: No(t) PERRL, eyes not reactive.
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : )
   Skin:  Not assessed
   Neurologic: Able to follow simple commands, wiggle toes. Light gag.
   Labs / Radiology
   167 K/uL
   7.8 g/dL
   99 mg/dL
   3.6 mg/dL
   22 mEq/L
   4.3 mEq/L
   52 mg/dL
   115 mEq/L
   147 mEq/L
   25.3 %
   13.4 K/uL
        [image002.jpg]
                             [**2163-11-6**]  11:56 PM
                             [**2163-11-7**]  12:47 AM
                             [**2163-11-7**]  02:45 AM
                             [**2163-11-7**]  06:02 AM
                             [**2163-11-7**]  09:49 AM
                             [**2163-11-7**]  01:49 PM
                             [**2163-11-8**]  03:53 AM
   WBC
   11.5
   13.4
   Hct
   28
   27.7
   26.3
   25.3
   Plt
   224
   167
   Cr
   3.8
   3.6
   3.6
   TropT
   0.35
   0.36
   TCO2
   24
   24
   23
   24
   Glucose
   [**Telephone/Fax (3) 9009**]9
   Other labs: PT / PTT / INR:18.2/31.1/1.6, CK / CKMB /
   Troponin-T:61//0.36, Differential-Neuts:86.1 %, Lymph:9.9 %, Mono:3.2
   %, Eos:0.5 %, Fibrinogen:739 mg/dL, Lactic Acid:1.4 mmol/L, LDH:229
   IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   [**11-6**] BCX pending
   [**11-6**] Ucx pending
[**2163-11-7**] 3:03 am SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2163-11-7**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
      RESPIRATORY CULTURE (Preliminary):
[**2163-11-8**] 3:52 am URINE      Source: Catheter.
      Legionella Urinary Antigen  (Pending):
   CXR [**11-7**]
   IMPRESSION: AP chest compared to [**11-6**]:
   Left lower lobe is still collapsed. Consolidation in the left upper
   lobe has
   worsened. Findings raise question of a severe aspiration or even
   central
   bronchial obstruction. Heart size normal. Pleural effusion if any is
   small
   on the left. Right lung clear. ET tube in standard placement.
   Nasogastric
   tube passes into the stomach and out of view. Clips denote prior
   surgery at
   the region of the thoracoabdominal junction in the midline.
   Assessment and Plan
   67 y.o. M from [**Hospital3 2781**] with recent history of pneumonia,
   presented with fever, tachycardia, and increased lethargy, found to
   have pneumonia and now intubated for respiratory failure.
   # Respiratory Failure: Secondary to dense pneumonia that was seen on
   portable CXR.  Intubated in ED for tachypnea and WOB. RSBI suggests
   able to extubate, on minimal vent settings and off sedation.
   - extubate today, per family, no re-intubation
   - S&S after extubation
   - HOB elevation / PPI / VAP bundle
   - ABGs prn
   - treat PNA with vanc / cefepime / cipro
   # HCAP: Secondary to pneumonia seen on CXR. Given patient living in
   [**Hospital3 2781**], he is at risk for healthcare associated pneumonia.
   - Continue to treat with vancomycin / cefepime / ciprofloxacin
   - f/u sputum culture
   - f/u blood and urine cultures
   - IVF hydration as below
   # Altered mental status: More awake off sedation, follows simple
   commands.
   - would like HCP to provide collateral information
   - treat infection as this could be etiology of delirium
   - treat pain with tylenol 1000 TID and likely okay to restart
   neurontin.
   # Leukocytosis: Slightly elevated today from yesterday; likely due to
   underlying pneumonia, but also has sacral decub that does not appear
   infected
   - monitor WBC count
   - f/u cultures
   - continue current abx treatment which would also cover skin orgs
   (MRSA)
   # R arm pain: Was worked up at [**Hospital1 587**] per OSH records.  Pt was in extreme
   pain of R arm. Xrays were reportedly normal there.  Vascular surgery at
   [**Hospital1 587**] imaged arm and saw no signs of infection.  Neuro at [**Hospital1 587**] wondered if
   this was RSD and pt on neurontin. Will restart neurontin today at a
   dose of 100mg PO TID.
   - tylenol TID
   - morphine prn
   - portable cxr.
   # GI Bleeding: Baseline Hct 27.  Now 25.  Guaiac + in ED.
   - monitor Hct
   - active T&S
   - guaiac all stools
   - 2 large bore PIVs
   - f/u GI input
   - IV PPI daily
   # Elevated Troponins: CE remained flat without any EKG changes.
   Elevated Troponin may be secondary to renal failure. EKG not able to
   compare to baseline, but per OSH records had old Q waves in inferior
   leads.
   - EKGs prn
   # Coagulopathy: INR coming down after 10mg IV vitamin K.  Now 1.6
   - trend coags
   - no active evidence of bleeding, so will start heparin gtt with
   coumadin bridge
   # CKD, Stage 4: Recently discharged with Cr 2 from [**Hospital1 587**]. Now 3.6
   - trend Cr
   - IVF hydration
   - renally dose all meds
   - f/u  SPEP, UPEP given renal failure and anemia
   - continue calcium acetate, renal caps
   # Hypernatremia: currently 147 and will need to slowly recorrect,
   completed D5W x 20 hours at 120 cc.
   - 1 L D5W today
   - monitor [**Hospital1 **] lytes
   # Type 2 DM: will need tight control as giving D5W.
   - HISS
   - QIDACHS FS
   # Hyperlipidemia: continue Zetia and Lipitor
   # HTN: hold beta blocker and amlodipine in setting of ? GI bleed,
   continues to be normotensive
   # ? UTI: UA grossly bloody and may be false +. 2^nd UA with gross
   blood.  ? foley trauma
   - follow
   - consider resending UA, urine cytology
   # Stage 2 Sacral Decub: wound care consult
   ICU Care
   Nutrition: NPO except meds currently, s/p extubation, hope to start
   nutrition
   Glycemic Control:  HISS
   Lines:
   20 Gauge - [**2163-11-7**] 02:45 AM
   18 Gauge - [**2163-11-7**] 02:45 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: IV PPI [**Hospital1 **]
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: [**First Name8 (NamePattern2) 8974**] [**Last Name (NamePattern1) 8975**] [**Telephone/Fax (1) 8976**]
 NEEDS ICU
   CONSENT SIGNED
   Code status: DNR/DNI
   Disposition: ICU for now
 potential c/o after extubation
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Remains on the vent due to volume loss and pna on the left. Appears
   ready for extubation.
   Exam notable for
   Tmax: 38.1
C (100.6
   Tcurrent: 37.9
C (100.3
   HR: 76 (76 - 92) bpm
   BP: 140/54(75) {97/39(52) - 140/82(94)} mmHg
   RR: 20 (10 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,285 mL
                                                                    524 mL
   PO:
             TF:
   IVF:
                                                                  3,015 mL
                                                                    524 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                    330 mL
   Urine:
                                                                  1,035 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,250 mL
                                                                    194 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 445 (158 - 484) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.35/42/92.[**Numeric Identifier 491**]/22/-2
   Ve: 13.2 L/min
   PaO2 / FiO2: 232
   Intubated, sedated, following commands
   Lung decreased BSs on left
   Hrt rrr
   Abd benign
   Extreme no edema
   Labs reviewed and recorded above
   Imaging: CXR with stable LLL volume loss and patchy infiltrates on left
   Problems: resp failure, atelectasis, pna, GI bleed, renal insufficiency
   Agree with plan to extubate, cont abx, follow Hct
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 36 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2163-11-8**] 13:11 ------

2163-11-08 09:35:00 Physician Attending Progress Note
Chief Complaint: Aspiration pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Doing well on minimal ventilator setting. Starting to wake up this am.
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2163-11-7**] 03:00 AM
   Cefipime - [**2163-11-8**] 04:00 AM
   Ciprofloxacin - [**2163-11-8**] 06:21 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2163-11-8**] 08:39 AM
   Other medications:
   nephrocaps, lipitor, caacetate, zetia, HISS, vanco, ipratropium
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-11-8**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.5
C (99.5
   HR: 73 (73 - 92) bpm
   BP: 128/51(69) {97/39(52) - 140/82(94)} mmHg
   RR: 19 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,285 mL
                                                                    579 mL
   PO:
             TF:
   IVF:
                                                                  3,015 mL
                                                                    549 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                    450 mL
   Urine:
                                                                  1,035 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,250 mL
                                                                    129 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 421 (158 - 484) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.35/42/92.[**Numeric Identifier 491**]/22/-2
   Ve: 7.5 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal, cough with suctioning
   borderline gag reflex.
   Labs / Radiology
   7.8 g/dL
   167 K/uL
   99 mg/dL
   3.6 mg/dL
   22 mEq/L
   4.3 mEq/L
   52 mg/dL
   115 mEq/L
   147 mEq/L
   25.3 %
   13.4 K/uL
        [image002.jpg]
                             [**2163-11-6**]  11:56 PM
                             [**2163-11-7**]  12:47 AM
                             [**2163-11-7**]  02:45 AM
                             [**2163-11-7**]  06:02 AM
                             [**2163-11-7**]  09:49 AM
                             [**2163-11-7**]  01:49 PM
                             [**2163-11-8**]  03:53 AM
   WBC
   11.5
   13.4
   Hct
   28
   27.7
   26.3
   25.3
   Plt
   224
   167
   Cr
   3.8
   3.6
   3.6
   TropT
   0.35
   0.36
   TCO2
   24
   24
   23
   24
   Glucose
   [**Telephone/Fax (3) 9009**]9
   Other labs: PT / PTT / INR:18.2/31.1/1.6, CK / CKMB /
   Troponin-T:61//0.36, Differential-Neuts:86.1 %, Lymph:9.9 %, Mono:3.2
   %, Eos:0.5 %, Fibrinogen:739 mg/dL, Lactic Acid:1.4 mmol/L, LDH:229
   IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Imaging: Improved LLL aeration, ETT in good position.
   Microbiology: Blood and urine culture
   sputum with oropharyngeal flora
   urine legionella pending
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY: Sacral decubitus ulcer.
   continue wound care, appreciate wound care nursing consult.
 COAGULOPATHY:
   improved,will resume coumadin at low dose ot 2mg qhs
 HYPERNATREMIA (HIGH SODIUM):
   slowly correcting continue free water repletion x1 more D5W.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]);
   awake, following commands tolerating PS well, will extubate this am,
   and monitor carefully.
   Continue to treat aspiration pneumonia, will obtain OSH prior cultures.
   resend sputum cultures. d/c cipro, continue cefepime, vanco and
   readjust to improving renal function.
 Anemia: trending down, likely related to IVF, monitor stool guiac
HTN: currently normotensive, holding off on resuming home
   antihypertensive
Right arm pain: resume home neurontin, start lidocaine
Aspiration: SS consult after extubation
Renal failure: improving.
   ICU Care
   Nutrition: onhold for extubation.
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-11-7**] 02:45 AM
   18 Gauge - [**2163-11-7**] 02:45 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2163-11-09 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2163-11-8**] 10:37 AM
   - family meeting yesterday was to pursue goal of hospice and comfort
   care
   - successfully extubated
   - had [**2-20**] GPC, no further blood culture speciation
   - sodium has improved
   - PO with thickened diet
   - arm xray obtained, awaiting read but no gross fracture.
   - legionella negative.
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2163-11-7**] 03:00 AM
   Cefipime - [**2163-11-8**] 04:00 AM
   Ciprofloxacin - [**2163-11-8**] 06:21 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2163-11-8**] 08:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-11-9**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98
   HR: 84 (69 - 92) bpm
   BP: 148/52(78) {102/44(63) - 152/81(90)} mmHg
   RR: 19 (17 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,282 mL
                                                                     72 mL
   PO:
             TF:
   IVF:
                                                                  1,252 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    620 mL
   Urine:
                                                                  1,410 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -128 mL
                                                                   -548 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 421 (421 - 421) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 92%
   ABG: ////
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: appears older than stated age
   Eyes / Conjunctiva: No(t) PERRL, eyes not reactive.
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: no c/c/e
   Respiratory / Chest: coarse BS anteriorly
   Skin: stage IV sacral decub
   Neurologic: Able to follow simple commands, wiggle toes. Light gag.
   Labs / Radiology
   167 K/uL
   7.8 g/dL
   99 mg/dL
   3.6 mg/dL
   22 mEq/L
   4.3 mEq/L
   52 mg/dL
   115 mEq/L
   143 mEq/L
   25.3 %
   13.4 K/uL
        [image002.jpg]
                             [**2163-11-6**]  11:56 PM
                             [**2163-11-7**]  12:47 AM
                             [**2163-11-7**]  02:45 AM
                             [**2163-11-7**]  06:02 AM
                             [**2163-11-7**]  09:49 AM
                             [**2163-11-7**]  01:49 PM
                             [**2163-11-8**]  03:53 AM
   WBC
   11.5
   13.4
   Hct
   28
   27.7
   26.3
   25.3
   Plt
   224
   167
   Cr
   3.8
   3.6
   3.6
   TropT
   0.35
   0.36
   TCO2
   24
   24
   23
   24
   Glucose
   [**Telephone/Fax (3) 9009**]9
   Other labs: PT / PTT / INR:18.2/31.1/1.6, CK / CKMB /
   Troponin-T:61//0.36, Differential-Neuts:86.1 %, Lymph:9.9 %, Mono:3.2
   %, Eos:0.5 %, Fibrinogen:739 mg/dL, Lactic Acid:1.4 mmol/L, LDH:229
   IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   67 y.o. M from [**Hospital3 2781**] with recent history of pneumonia,
   presented with fever, tachycardia, and increased lethargy, found to
   have pneumonia, s/p extubation on [**11-8**], now comfort measures only,
   transitioning to hospice.
   # Healthcare associated pneumonia: Now extubated
   - continue vancomycin / cefepime x 8 days (day 4 / 8)
   Pt is now comfort measures only, but will continue antibiotics as
   clinically appears better.  Plan is to control pain with neurontin and
   morphine bolus doses, consult palliative care today, supplemental
   oxygen as needed. No lab draws. Will talk with SW, CM, and palliative
   to attempt to have patient transitioned to hospice.
   ICU Care
   Nutrition:
   Regular; Consistency: Pureed (dysphagia); Nectar prethickened liquids
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-11-7**] 02:45 AM
   18 Gauge - [**2163-11-7**] 02:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Comfort measures only
   Disposition:Transfer to floor
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2163-11-9**] 14:42 ------

2163-11-09 11:00:00 Physician Attending Progress Note
Chief Complaint: Aspiration pneumonia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Discussion with family, decision is to provide [** **] care only, and
   transition to hospice.
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2163-11-8**] 04:00 AM
   Ciprofloxacin - [**2163-11-8**] 06:21 AM
   Vancomycin - [**2163-11-9**] 07:47 AM
   Infusions:
   Other ICU medications:
   Other medications:
   vanco 1g iv q48, ipratropium, cefepime, lidocaine patch daily,
   gapapentin.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-11-9**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 78 (69 - 92) bpm
   BP: 141/49(71) {102/44(63) - 153/81(90)} mmHg
   RR: 22 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,282 mL
                                                                    308 mL
   PO:
             TF:
   IVF:
                                                                  1,252 mL
                                                                    308 mL
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    880 mL
   Urine:
                                                                  1,410 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -128 mL
                                                                   -572 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   FiO2: 50%
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Decreased, smiling, denies pain.
   Labs / Radiology
   7.8 g/dL
   167 K/uL
   99 mg/dL
   3.6 mg/dL
   22 mEq/L
   4.3 mEq/L
   52 mg/dL
   115 mEq/L
   143 mEq/L
   25.3 %
   13.4 K/uL
        [image002.jpg]
                             [**2163-11-6**]  11:56 PM
                             [**2163-11-7**]  12:47 AM
                             [**2163-11-7**]  02:45 AM
                             [**2163-11-7**]  06:02 AM
                             [**2163-11-7**]  09:49 AM
                             [**2163-11-7**]  01:49 PM
                             [**2163-11-8**]  03:53 AM
   WBC
   11.5
   13.4
   Hct
   28
   27.7
   26.3
   25.3
   Plt
   224
   167
   Cr
   3.8
   3.6
   3.6
   TropT
   0.35
   0.36
   TCO2
   24
   24
   23
   24
   Glucose
   [**Telephone/Fax (3) 9009**]9
   Other labs: PT / PTT / INR:18.2/31.1/1.6, CK / CKMB /
   Troponin-T:61//0.36, Differential-Neuts:86.1 %, Lymph:9.9 %, Mono:3.2
   %, Eos:0.5 %, Fibrinogen:739 mg/dL, Lactic Acid:1.4 mmol/L, LDH:229
   IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Imaging: Right forearm X-ray with no fracture.
   Microbiology: urine legionella negative
   [**2-20**] GPC
   spuutm with 2+  GPR
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY:
   contineu wound care
 COAGULOPATHY: stopped coumadin due to CMO status and stoping
   unecessary blood draws
 HYPERNATREMIA (HIGH SODIUM);
   resolved yesterday, d/c iv fluids, take po and drink fluids as
   tolerated.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]);
   treating with vanco/cefepime x 8 days.
   ICU Care
   Nutrition: po puree diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-11-7**] 02:45 AM
   18 Gauge - [**2163-11-7**] 02:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: sister
   [**Name (NI) 156**] status: [**Name (NI) **] measures only
   Disposition :Transfer to floor with hospice consult.. attempt to
   transfer to inpatient hospice close to his sister
s home in [**Name (NI) 116**].
   Total time spent: 25min